US07838674B2
8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6,9-dicarboxylic acid 6-tert-butyl ester 9-methyl ester
The mixture of 3-[1-(2-ethoxycarbonyl-acetylamino)-cyclopropyl]-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-isopropyl ester and ethyl ester (Example 180b) (350 mg; 0.35 mmol) is dissolved in toluene (5 ml) and added dropwise under stirring to a solution of sodium (20 mg; 0.85 mol) in MeOH (1 ml). The mixture is heated to 85° C. for 45 minutes, cooled, and the resulting suspension (Na-salt of title compound) filtered, washed with toluene and isopentane. The white solid is taken up in water/2N HCl (20 ml/0.5 ml) and extracted with CH2Cl2 three times. The combined organic phases are dried over Na2SO4, filtered and evaporated to dryness to deliver the title compound as almost colorless foam (166 mg; 58%).

reactant | 3-[1-(2-ethoxycarbonyl-acetylamino)-cyclopropyl]-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-isopropyl ester | C(C)(C)OC(=O)C1(CN(C1)C(=O)OC(C)(C)C)C1(CC1)NC(CC(=O)OCC)=O | C20H32N2O7
reactant | sodium | 0.85 mol, 20 mg | [Na] | Na
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 1 ml | CO | CH4O
product | 8,10-Dioxo-6,11-diaza-dispiro[2.0.3.4]undecane-6,9-dicarboxylic acid 6-tert-butyl ester 9-methyl ester | COC(=O)C1C(C2(C3(CC3)NC1=O)CN(C2)C(=O)OC(C)(C)C)=O | C16H22N2O6
